### PR TITLE
[Merged by Bors] - chore(LinearAlgebra): generalize some lemmas

### PR DESCRIPTION
**Pull request by alreadydone**
and move them to earlier files.

`rank_subsingleton'`, `rank_punit` and `rank_bot` are generalized from Ring to Semiring.

`linearIndependent_subsingleton_iff` is generalized to Semiring and an extraneous NoZeroSMulDivisors condition is removed.

`ENat.card_ne_zero_iff_nonempty` is added.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Dimension/Basic.lean [hunk 1]
```diff
@@ -63,9 +63,22 @@ protected irreducible_def Module.rank : Cardinal :=
...
+/-- See `rank_subsingleton` that assumes `Subsingleton R` instead. -/
+@[simp, nontriviality] theorem rank_subsingleton' [Subsingleton M] : Module.rank R M = 0 := by
+  rw [Module.rank, ← bot_eq_zero, eq_bot_iff]
+  exact ciSup_le fun s ↦ by simp [(linearIndependent_subsingleton_iff _).mp s.2]
+
+@[simp]
+theorem rank_punit : Module.rank R PUnit = 0 := rank_subsingleton' _ _
+
+@[simp]
+theorem rank_bot : Module.rank R (⊥ : Submodule R M) = 0 := rank_subsingleton' _ _
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Dimension/Basic.lean:80]: Is there a reason why these are moved? The idea is to put every thing mentioning a finite number in `Finite.lean`.

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dimension/Basic.lean:80]: This file imports only 813 files but the original file imports 1085. I think it's better to make such basic results available earlier.

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean [hunk 2]
```diff
@@ -160,6 +160,11 @@ theorem linearIndependent_zero_iff [Nontrivial R] : LinearIndependent R (0 : ι
 theorem linearIndepOn_zero_iff [Nontrivial R] : LinearIndepOn R (0 : ι → M) s ↔ s = ∅ :=
   linearIndependent_zero_iff.trans isEmpty_coe_sort
 
+@[simp]
+theorem linearIndependent_subsingleton_iff [Nontrivial R] [Subsingleton M] (f : ι → M) :
+    LinearIndependent R f ↔ IsEmpty ι := by
+  rw [Subsingleton.elim f 0, linearIndependent_zero_iff]
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/LinearIndependent/Defs.lean:166]: I don't understand this move as well. This is a lemma and a def. 
Indeed there are confusingly already some lemmas in the def file but I'm not sure if we should make things worse.

File: Mathlib/LinearAlgebra/Dimension/Basic.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/LinearAlgebra/Dimension/Basic.lean:80]: Perhaps you could make a `Zero.lean` and `One.lean` and move things there instead?

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean:166]: I'm moving this right below the lemma `linearIndependent_zero_iff` that it depends on; I think it improves coherence.
This file is full of lemmas so this is totally normal. It has 750 lines and might be split some time in the future.

File: Mathlib/LinearAlgebra/Dimension/Basic.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dimension/Basic.lean:80]: Maybe I'll create `Subsingleton.lean` and move `rank_subsingleton` there as well.

**Comment by grunweg** [comment]
Hello @YaelDillies. On behalf of the [reviewer auto-assignment algorithm](https://github.com/leanprover-community/queueboard/blob/c14ec731bf62c8ca462609091b1345c5b9fece17/suggested_assignments.json), I'm assigning this PR to you.

File: Mathlib/LinearAlgebra/Dimension/Basic.lean [hunk 3]
```diff
@@ -67,7 +67,7 @@ protected irreducible_def Module.rank : Cardinal :=
 theorem rank_le_card : Module.rank R M ≤ #M :=
   (Module.rank_def _ _).trans_le (ciSup_le' fun _ ↦ mk_set_le _)
 
-lemma nonempty_linearIndependent_set : Nonempty {s : Set M // LinearIndepOn R id s } :=
+instance nonempty_linearIndependent_set : Nonempty {s : Set M // LinearIndepOn R id s } :=
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Dimension/Basic.lean:70]: While you're touching this,
```suggestion
instance nonempty_linearIndependent_set : Nonempty {s : Set M // LinearIndepOn R id s} :=
```

File: Mathlib/SetTheory/Cardinal/Finite.lean [hunk 4]
```diff
@@ -330,6 +330,9 @@ theorem card_eq_zero_iff_empty (α : Type*) : card α = 0 ↔ IsEmpty α := by
   rw [← Cardinal.mk_eq_zero_iff]
   simp [card]
 
+theorem card_ne_zero_iff_nonempty (α : Type*) : card α ≠ 0 ↔ Nonempty α := by
+  simp [card_eq_zero_iff_empty]
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Finite.lean:334]: Do you think this should be simp?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/SetTheory/Cardinal/Finite.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/SetTheory/Cardinal/Finite.lean:334]: Probably `ENat.card_eq_zero_iff_empty` should be, but then [Cardinal.mk_eq_zero_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Cardinal/Defs.html#Cardinal.mk_eq_zero_iff) should also. So let's not do it in this PR :)
